US06124281
7-Chloro-3-(carboxy)pyrazolo[3,4-c][1]benzazepine-4,10-(1H,9H)-dione
A solution of 7-chloro-3-(ethoxycarbonyl)pyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione (6 g, 18.75 mmol) in aqueous sodium hydroxide (206 mL, 0.2N) was refluxed for 135 minutes. The mixture was cooled to room temperature and glacial acetic acid (30 mL) was added. The insoluble material was filtered and dried to give the title compound as a yellow solid (5.1 g, 94%, m.p. >400° C. dec.).

reactant | 7-chloro-3-(ethoxycarbonyl)pyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione | 18.75 mmol, 6 g | ClC1=CC2=C(C(C3=C(C(N2)=O)NN=C3C(=O)OCC)=O)C=C1 | C14H10ClN3O4
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 0.2N, 206 mL | [OH-].[Na+]
product | 7-Chloro-3-(carboxy)pyrazolo[3,4-c][1]benzazepine-4,10-(1H,9H)-dione | 5.1 g, 94% | ClC1=CC2=C(C(C3=C(C(N2)=O)NN=C3C(=O)O)=O)C=C1 | C12H6ClN3O4
